US06423699B1
In a manner as described above, 4-bromo-2-fluoro-1-nitro-benzene (11 g, 50 mmol), and N-benzyl-glycine ethyl ester (10 g, 50 mmol) were reacted to give crude [(5-bromo-nitro-phenyl)-benzyl-amino]-acetic acid (10 g, 55%). This product was reacted with iron powder to obtain crude 4-benzyl-6-bromo-3,4-dihydroquinoxalin-2(1H)-one (5 g, 58%). A sample was recrystallized from ethyl acetate/hexane: m.p. 174-176° C. 1H-NMR (DMSO-d6) δ 3.75 (s, 2H), 4.43 (s, 2H), 6.71 (d, J=1.9 Hz, 1H), 6.81 (m, 2H), 7.32 (m, 5H), 10.57 (s, 1H).

reactant | 4-bromo-2-fluoro-1-nitro-benzene | 50 mmol, 11 g | BrC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | N-benzyl-glycine ethyl ester | 50 mmol, 10 g | C(C)OC(CNCC1=CC=CC=C1)=O | C11H15NO2
product | [(5-bromo-nitro-phenyl)-benzyl-amino]-acetic acid | 10 g, 55% | BrC=1C=CC(=C(C1)N(CC1=CC=CC=C1)CC(=O)O)[N+](=O)[O-] | C15H13BrN2O4
